US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid (1.5 g) and (4-isopropylphenyl)[(4-methylthiophenyl)methyl]amine (2.0 g) as starting materials, N-(4-isopropylphenyl)-7-methoxy-N-[(4-methylthiophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (1.4 g) was obtained.

reactant | 7-methoxy-1,2,3,4-tetrahydronaphthalene-1-carboxylic acid | 1.5 g | COC1=CC=C2CCCC(C2=C1)C(=O)O | C12H14O3
reactant | (4-isopropylphenyl)[(4-methylthiophenyl)methyl]amine | 2.0 g | C(C)(C)C1=CC=C(C=C1)NCC1=CC=C(C=C1)SC | C17H21NS
product | N-(4-isopropylphenyl)-7-methoxy-N-[(4-methylthiophenyl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 1.4 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=C(C=C12)OC)CC1=CC=C(C=C1)SC | C29H33NO2S
